US06281227B1
E. 3-(S)-Amino-1-(4-amino-3-nitrobenzyl)-pyrrolidin-2-one
To a solution of N-[1-(4-acetylamino-3-nitrobenzyl)-2-oxopyrrolidin-3-(S)-yl]-2,2,2 -trifluoroacetamide (0.65 g, 1.67 mmol) in EtOH (4 mL) is added 1 N NaOH (6 mL) solution. The yellow mixture is heated at 50° C. for 3 hours as a brown solution resulted. The reaction mixture is allowed to cool and then concentrated in vacuo. The crude residue is diluted with water and 1N NaOH 10 mL) and the aqueous phase is extracted with CHCl3 (4×50 mL). The combined organic layers are dried over anhydrous Na2SO4, filtered and concentrated to give the title compound (0.22 g, 0.88 mmol) as a yellow solid which is used as is in the subsequent step.

reactant | N-[1-(4-acetylamino-3-nitrobenzyl)-2-oxopyrrolidin-3-(S)-yl]-2,2,2 -trifluoroacetamide | 1.67 mmol, 0.65 g | C(C)(=O)NC1=C(C=C(CN2C([C@H](CC2)NC(C(F)(F)F)=O)=O)C=C1)[N+](=O)[O-] | C15H15F3N4O5
reactant | NaOH | 1 N, 6 mL | [OH-].[Na+]
solvent | EtOH | 4 mL | CCO | C2H6O
product | 3-(S)-Amino-1-(4-amino-3-nitrobenzyl)-pyrrolidin-2-one | 0.88 mmol, 0.22 g | N[C@@H]1C(N(CC1)CC1=CC(=C(C=C1)N)[N+](=O)[O-])=O | C11H14N4O3
